US05183820
6-Fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one
A solution of phenylmethyl 4-[(6-fluoro-2,3,4,5-tetrahydro-5-methyl-1-oxo-1H-pyrido [4,3-b]indol-2-yl)methyl]-5-methyl-1H-imidazole-1-carboxylate (100 mg) in ethanol (20 ml) and 2N hydrochloric acid (10 ml) was heated on a steam bath for 10 min. The cooled reaction mixture was then added to water (5 ml) and 2N sodium hydroxide (20 ml), and extracted with ethyl acetate (2×75 ml). The combined, dried organic extracts were adsorbed onto silica and purified by FCC eluting with System A (100:8:1) to give a solid which was triturated with ether to give the title compound (50 mg), m.p. 232°-233°.

reactant | phenylmethyl 4-[(6-fluoro-2,3,4,5-tetrahydro-5-methyl-1-oxo-1H-pyrido [4,3-b]indol-2-yl)methyl]-5-methyl-1H-imidazole-1-carboxylate | 100 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC=3N=CN(C3C)C(=O)OCC3=CC=CC=C3 | C25H23FN4O3
reactant | water | 5 ml | O | H2O
reactant | sodium hydroxide | 2N, 20 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 2N, 10 ml | Cl | ClH
product | 6-Fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 50 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC=3N=CNC3C | C17H17FN4O
